* Arm A oscillator 9: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 9: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 21.8991
Cg0 i1_A 0 8.687780e-17
Cg1 nand_Y 0 8.687780e-17
Cc0 i1_A i2_A 1.667880e-16
Cc1 i1_A i30_A 0.000000e+00
Cc2 i1_A nand_B 2.790680e-16
Cc3 EN i1_A 2.483480e-17
Rn1_1 i1_Y i2_A 21.2384
Cg2 i2_A 0 5.909690e-17
Cg3 i1_Y 0 5.909690e-17
Cc4 i2_A i30_A 0.000000e+00
Cc5 i2_A nand_B 1.951990e-17
Cc6 EN i2_A 1.754260e-16
Rn10_2 i10_Y i11_A 31.4527
Cg4 i11_A 0 2.270270e-16
Cg5 i10_Y 0 2.270270e-16
Cc7 i11_A i10_A 4.375580e-17
Cc8 i11_A i17_A 2.354100e-17
Cc9 i11_A i18_A 0.000000e+00
Cc10 i11_A i9_A 7.905360e-17
Cx0 i11_A 0 2.354100e-17
Cx1 i11_A 0 1.274460e-16
Rn11_3 i11_Y i12_A 30.5688
Cg6 i12_A 0 1.638650e-16
Cg7 i11_Y 0 1.638650e-16
Cc11 i12_A i14_A 2.808530e-17
Cc12 i12_A i17_A 4.112740e-17
Cx2 i12_A 0 8.488220e-18
Cx3 i12_A 0 7.506970e-17
Rn12_4 i12_Y i13_A 19.4973
Cg8 i13_A 0 1.450790e-17
Cg9 i12_Y 0 1.450790e-17
Cc13 i13_A i14_A 9.572150e-17
Cx4 i13_A 0 3.809220e-17
Rn13_5 i13_Y i14_A 23.7473
Cg10 i14_A 0 1.096910e-16
Cg11 i13_Y 0 1.096910e-16
Cx5 i14_A 0 4.672020e-16
Cc14 i14_A i15_A 9.267620e-17
Cc15 i14_A buf_A 4.964460e-17
Cc16 i14_A s1689_6 2.296330e-17
Cx6 i14_A 0 3.975660e-17
Rn14_6 i14_Y i15_A 19.4973
Cg12 i15_A 0 1.971610e-17
Cg13 i14_Y 0 1.971610e-17
Cc17 i15_A buf_A 3.524080e-17
Cc18 i15_A s1689_6 7.076980e-17
Rn15_7 i15_Y s1689_6 10.4518
Rn15_8 s1689_6 buf_A 12.3179
Rn15_9 s1689_6 i16_A 21.2598
Cg14 i16_A 0 1.457990e-16
Cg15 buf_A 0 8.245000e-17
Cg16 i15_Y 0 3.972860e-17
Cg17 s1689_6 0 2.679780e-16
Cx7 buf_A 0 3.285160e-17
Cx8 i16_A 0 2.990610e-17
Cx9 i16_A 0 1.042320e-17
Cx10 buf_A 0 2.530190e-16
Cx11 s1689_6 0 5.041160e-17
Cx12 i16_A 0 8.303550e-18
Cx13 i16_A 0 0.000000e+00
Cx14 i16_A 0 1.696830e-16
Rn16_10 i16_Y i17_A 21.6938
Cg18 i17_A 0 1.127560e-16
Cg19 i16_Y 0 1.127560e-16
Cx15 i17_A 0 1.625350e-16
Cx16 i17_A 0 1.896950e-17
Rn17_11 i17_Y i18_A 30.6759
Cg20 i18_A 0 2.041510e-16
Cg21 i17_Y 0 2.041510e-16
Cx17 i18_A 0 1.209430e-16
Cx18 i18_A 0 0.000000e+00
Rn18_12 i18_Y i19_A 19.9080
Cg22 i19_A 0 7.783650e-17
Cg23 i18_Y 0 7.783650e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 5.339630e-17
Cg25 i19_Y 0 5.339630e-17
Rn2_14 i2_Y i3_A 30.1580
Cg26 i3_A 0 9.845880e-17
Cg27 i2_Y 0 9.845880e-17
Cc19 EN i3_A 3.524080e-17
Cx19 i3_A 0 8.488220e-18
Cx20 i3_A 0 7.602100e-17
Cx21 i3_A 0 8.063310e-17
Cx22 i3_A 0 1.377430e-17
Rn20_15 i20_Y i21_A 30.1134
Cg28 i21_A 0 1.824760e-16
Cg29 i20_Y 0 1.824760e-16
Rn21_16 i21_Y i22_A 20.2429
Cg30 i22_A 0 9.893540e-17
Cg31 i21_Y 0 9.893540e-17
Rn22_17 i22_Y i23_A 29.9393
Cg32 i23_A 0 1.524680e-16
Cg33 i22_Y 0 1.524680e-16
Cc20 i23_A i24_A 1.387260e-17
Cc21 i23_A i25_A 2.613370e-17
Cx23 i23_A 0 2.333760e-17
Rn23_18 i23_Y i24_A 21.5554
Cg34 i24_A 0 1.552610e-16
Cg35 i23_Y 0 1.552610e-16
Cx24 i24_A 0 1.145480e-17
Cx25 i24_A 0 6.400860e-17
Rn24_19 i24_Y i25_A 30.5866
Cg36 i25_A 0 1.924000e-16
Cg37 i24_Y 0 1.924000e-16
Cc22 i25_A i26_A 8.488220e-18
Cx26 i25_A 0 2.337110e-16
Rn25_20 i25_Y i26_A 31.7563
Cg38 i26_A 0 2.345100e-16
Cg39 i25_Y 0 2.345100e-16
Cc23 i26_A i27_A 4.714640e-17
Cx27 i26_A 0 0.000000e+00
Cx28 i26_A 0 1.547550e-16
Cx29 i26_A 0 1.484010e-17
Rn26_21 i26_Y i27_A 21.2563
Cg40 i27_A 0 9.633090e-17
Cg41 i26_Y 0 9.633090e-17
Cc24 i27_A i28_A 4.139300e-17
Cc25 EN i27_A 2.217310e-17
Cx30 i27_A 0 5.549640e-17
Rn27_22 i27_Y i28_A 21.1313
Cg42 i28_A 0 1.271180e-16
Cg43 i27_Y 0 1.271180e-16
Cc26 i28_A i29_A 2.771470e-17
Cc27 EN i28_A 2.503130e-17
Rn28_23 i28_Y i29_A 21.5420
Cg44 i29_A 0 1.068330e-16
Cg45 i28_Y 0 1.068330e-16
Cc28 i29_A i30_A 2.629080e-17
Cc29 EN i29_A 1.437130e-16
Rn29_24 i29_Y i30_A 21.5420
Cg46 i30_A 0 9.451250e-17
Cg47 i29_Y 0 9.451250e-17
Cc30 i30_A nand_B 2.629080e-17
Cc31 EN i30_A 1.839250e-16
Rn3_25 i3_Y i4_A 19.4973
Cg48 i4_A 0 2.618960e-17
Cg49 i3_Y 0 2.618960e-17
Cx31 i4_A 0 3.279430e-17
Cx32 i4_A 0 8.253220e-17
Rn30_26 i30_Y nand_B 24.1804
Cg50 nand_B 0 3.822880e-16
Cg51 i30_Y 0 3.822880e-16
Cc32 EN nand_B 3.126800e-17
Rn4_27 i4_Y i5_A 30.2652
Cg52 i5_A 0 1.371010e-16
Cg53 i4_Y 0 1.371010e-16
Cc33 i5_A i7_A 2.808530e-17
Cx33 i5_A 0 1.264390e-16
Cx34 i5_A 0 7.905360e-17
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 3.355400e-17
Cg55 i5_Y 0 3.355400e-17
Cc34 i6_A i7_A 9.572150e-17
Rn6_29 i6_Y i7_A 22.8813
Cg56 i7_A 0 2.042710e-16
Cg57 i6_Y 0 2.042710e-16
Cc35 i7_A i8_A 7.065280e-17
Rn7_30 i7_Y i8_A 31.3902
Cg58 i8_A 0 2.323580e-16
Cg59 i7_Y 0 2.323580e-16
Cc36 i8_A i10_A 1.377430e-17
Cc37 i8_A i9_A 2.808530e-17
Cx35 i8_A 0 1.489110e-16
Rn8_31 i8_Y i9_A 20.8277
Cg60 i9_A 0 9.457260e-17
Cg61 i8_Y 0 9.457260e-17
Cc38 i9_A i10_A 4.863700e-17
Rn9_32 i9_Y i10_A 21.5866
Cg62 i10_A 0 1.515200e-16
Cg63 i9_Y 0 1.515200e-16
Cg64 buf_X 0 1.362130e-15
Cx36 i14_A 0 4.672020e-16
Cx37 buf_A 0 3.285160e-17

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
